US03966758
1-(3-Fluorobenzyl)-2-imidazolidinone
A 21.5 g (0.25 mole) portion of 2-imidazolidinone in 150 ml of dimethylsulfoxide was treated with 34.5 g (0.25 mole) of potassium carbonate, 20 g (0.12 mole) of potassium iodide and 36.3 g (0.25 mole) of 3-fluorobenzyl chloride. The reaction mixture was heated with rapid stirring to 100° over 0.3 hours, held at 100° for 1.8 hours and poured with rapid stirring into 1.5 l of cold water. The aqueous mixture was extracted with 1.3 l of chloroform. The chloroform extract was washed with 500 ml of water, dried over magnesium sulfate overnight and filtered. The filtrate was concentrated to dryness to give 46 g (94%) of a light green semi-solid. The crude product was washed with 125 ml of ether, filtered and air dried to give 13.5 g (28%) of a white solid, m.p. 103°-105°.

reactant | 2-imidazolidinone | N1C(NCC1)=O | C3H6N2O
reactant | potassium carbonate | 0.25 mole, 34.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.12 mole, 20 g | [I-].[K+]
reactant | 3-fluorobenzyl chloride | 0.25 mole, 36.3 g | FC=1C=C(CCl)C=CC1 | C7H6ClF
solvent | dimethylsulfoxide | 150 ml | CS(=O)C | C2H6OS
solvent | water | 1.5 l | O | H2O
product | 1-(3-Fluorobenzyl)-2-imidazolidinone | 46 g, 94% | FC=1C=C(CN2C(NCC2)=O)C=CC1 | C10H11FN2O
